US08008307B2
Step e: N-[(3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-6-(phenylethynyl)pyrimidin-4-amine
To a solution of N-[(3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-6-iodopyrimidin-4-amine (0.300 g, 0.594 mmol) in DMF (2.46 mL) was added CuI (0.0113 g, 0.0594 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.0292 g, 0.0415 mmol). The tube was sealed and flushed with argon. Et3N (0.165 mL, 1.19 mol) was added and the reaction was stirred for 1 h. Phenylacetylene (0.216 mL, 1.96 mmol) was added and the reaction was stirred overnight. The suspension was filtered and the filtrate was concentrated in vacuo. The crude mixture was purified by flash chromatography (10 to 40% EtOAc/hexanes) to afford the title compound as a yellow oil (0.238 g, 84%). LC/MS: Rt=2.47 min, ES+ 480 (FA standard).

reactant | N-[(3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-6-iodopyrimidin-4-amine | 0.594 mmol, 0.300 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC2=NC=NC(=C2)I | C19H32IN3O3Si
reactant | Et3N | 1.19 mol, 0.165 mL | CCN(CC)CC | C6H15N
reactant | Phenylacetylene | 1.96 mmol, 0.216 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | DMF | 2.46 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.0594 mmol, 0.0113 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.0415 mmol, 0.0292 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[(3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-6-(phenylethynyl)pyrimidin-4-amine | 0.238 g, 84% | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC2=NC=NC(=C2)C#CC2=CC=CC=C2 | C27H37N3O3Si
